US07064124B2
N-(Pyridin-3-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
2-Chloro-1,3-dimethylimidazolinium chloride (39 mg, 0.23 mmol), 3-aminopyridine (21 mg, 0.23 mmol) and triethylamine (23 mg, 0.23 mmol) were added to a methylene chloride solution (5 ml) of 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (57 mg, 0.152 mmol) in a nitrogen atmosphere and the resulting solution was stirred all the night through. The reaction solution was diluted with chloroform, then washed with water and dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (benzene:acetone=3:1) to obtain the titled compound (12 mg, 0.027 mmol, 18%).

reactant | 2-Chloro-1,3-dimethylimidazolinium chloride | 0.23 mmol, 39 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | 3-aminopyridine | 0.23 mmol, 21 mg | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 0.23 mmol, 23 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.152 mmol, 57 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OC(C)=O)C)=O | C19H18O8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(Pyridin-3-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.027 mmol, 12 mg, 18% | N1=CC(=CC=C1)NC(C1=C(C=C(C=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C24H22N2O7
